US05604181
2-Acetoxy-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfony-2-phenylacetamide
2-Chloro-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2-phenylacetamide (0.5 g) and anhydrous sodium acetate (0.25 g) were refluxed in glacial acetic acid (10 ml) for 7 hours. The acetic acid was evaporated off under vacuum, and the residue was taken into ether. The ether solution was washed with water (3 times), dried over magnesium sulfate, and evaporated under vacuum to give 0.52 g of a brown glass. Trituration with diisopropyl ether gave an off-white solid, which was filtered off, washed with diisopropyl ether and dried to give 0.3 g of the desired product, mp 141°-143° C.

reactant | 2-Chloro-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfonyl-2-phenylacetamide | 0.5 g | ClC(C(=O)NS(=O)(=O)C)(C1=CC=CC=C1)C1=NC(=CC(=N1)OC)OC | C15H16ClN3O5S
reactant | sodium acetate | 0.25 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Acetoxy-2-(4,6-dimethoxypyrimidin-2-yl)-N-methanesulfony-2-phenylacetamide | 0.52 g | C(C)(=O)OC(C(=O)NS(=O)(=O)C)(C1=CC=CC=C1)C1=NC(=CC(=N1)OC)OC | C17H19N3O7S
